US05312823
a) 2-Ethoxycarbonyl-5-methyl-2,3-dihydro-1H-pyrrolo-[3,4-c]pyridinium iodide
9.6 g (50 mmol) of ethyl 2,3-dihydro-1H-pyrrolo-[3,4-c]pyridine-2-carboxylate and 6.3 ml (100 mmol) of methyl iodide are refluxed for 15 hours in 50 ml of acetonitrile. The batch is poured into diethyl ether, and the salt which has precipitated is filtered off with suction and dried in the air.

reactant | ethyl 2,3-dihydro-1H-pyrrolo-[3,4-c]pyridine-2-carboxylate | 50 mmol, 9.6 g | C1N(CC=2C=NC=CC21)C(=O)OCC | C10H12N2O2
reactant | methyl iodide | 100 mmol, 6.3 ml | CI | CH3I
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-Ethoxycarbonyl-5-methyl-2,3-dihydro-1H-pyrrolo-[3,4-c]pyridinium iodide | [I-].C(C)OC(=O)[NH+]1CC=2CN(C=CC2C1)C | InChI=1S/C11H16N2O2.HI/c1-3-15-11(14)13-7-9-4-5-12(2)6-10(9)8-13;/h4-5H,3,6-8H2,1-2H3;1H
